US09388137B2
A 50 mL round bottom flask was charged with 2-(4-(4-fluorophenoxy)phenyl)-6-methylisonicotinic acid (116 mg, 0.36 mmol) suspended in DCM and cooled in an ice bath for 20 minutes. Thionyl chloride (2 mL) was added to the suspension, which became a solution in about 10 minutes. The ice bath was removed and the reaction mixture was concentrated under reduced pressure to give 2-(4-(4-fluorophenoxy)phenyl)-6-methylisonicotinoyl chloride which was used without purification for the next reaction.

reactant | 2-(4-(4-fluorophenoxy)phenyl)-6-methylisonicotinic acid | 0.36 mmol, 116 mg | FC1=CC=C(OC2=CC=C(C=C2)C=2C=C(C(=O)O)C=C(N2)C)C=C1 | C19H14FNO3
reactant | Thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-fluorophenoxy)phenyl)-6-methylisonicotinoyl chloride | FC1=CC=C(OC2=CC=C(C=C2)C=2C=C(C(=O)Cl)C=C(N2)C)C=C1 | C19H13ClFNO2
